US09382197B2
Methyl 4-(1-aminoethyl)-3-methylbenzoate hydrochloride
To a degassed solution of methyl 4-[N-hydroxyethanimidoyl]-3-methylbenzoate (0.348 g, 1.68 mmol) and 12.0 M aqueous hydrochloric acid (0.35 mL, 4.20 mmol) in methanol (15 mL) was added 10% palladium on carbon (0.11 g, 0.101 mmol). The reaction mixture was stirred under a balloon atmosphere of H2 overnight. All insolubles were then removed via filtration through celite and the filtrate was evaporated to dryness. The residue was redissolved in methanol/toluene and concentrated under reduced pressure to afford a white solid (0.385 g, 100%). LC-MS: (FA) ES+ 195; 1H NMR (300 MHz, DMSO) δ 7.15 (m Hz, 2H), 6.73 (d, J=8.1 Hz, 1H), 6.45-6.26 (m, 1H), 3.96 (dd, J=13.7, 6.9 Hz, 1H), 3.10 (s, 3H), 1.67 (s, 3H), 0.80 (d, J=6.8 Hz, 3H).

reactant | methyl 4-[N-hydroxyethanimidoyl]-3-methylbenzoate | 1.68 mmol, 0.348 g | ON=C(C)C1=C(C=C(C(=O)OC)C=C1)C | C11H13NO3
reactant | hydrochloric acid | 4.20 mmol, 12.0 M, 0.35 mL | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
catalyst | palladium on carbon | 0.101 mmol, 0.11 g | [Pd] | Pd
product | Methyl 4-(1-aminoethyl)-3-methylbenzoate hydrochloride | 0.385 g, 100% | Cl.NC(C)C1=C(C=C(C(=O)OC)C=C1)C | InChI=1S/C11H15NO2.ClH/c1-7-6-9(11(13)14-3)4-5-10(7)8(2)12;/h4-6,8H,12H2,1-3H3;1H
